US06323235B1
2-((3,3-diphenylpropyloxy)methyl)-7-methoxybenzofuran
3,3-diphenylpropanol (324 mg) and sodium hydride (60% dispersion in mineral oil, 54 mg) were added to DMF (5 ml) and the obtained mixture was stirred at room temperature for 15 minutes. 7-methoxy-2-chloromethylbenzofuran (250 mg) was then added and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was added to saturated aqueous ammonium chloride solution (15 ml) to neutralize the mixture. Distilled water (20 ml) was added to the mixture and the resultant was extracted with 20 ml of ethyl acetate containing 15% of n-hexane three times. The organic layers were combined and washed with distilled water (10 ml) and with saturated brine (10 ml), followed by drying over anhydrous sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure to dry the residue and the residue was purified by column chromatography (solvent: n-hexane/ethyl acetate=10/1) using silica gel to obtain the desired compound (394 mg, yield: 83%).

reactant | 3,3-diphenylpropanol | 324 mg | C1(=CC=CC=C1)C(CCO)C1=CC=CC=C1 | C15H16O
reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | 7-methoxy-2-chloromethylbenzofuran | 250 mg | COC1=CC=CC=2C=C(OC21)CCl | C10H9ClO2
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | water | 20 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-((3,3-diphenylpropyloxy)methyl)-7-methoxybenzofuran | 394 mg, yield: 83% | C1(=CC=CC=C1)C(CCOCC=1OC2=C(C1)C=CC=C2OC)C2=CC=CC=C2 | C25H24O3
